US07700595B2
A suspension of (2-fluoro-3-trifluoromethyl-phenyl)-phenyl-methanone (0.5 g, 1.87 mmol) in 10 ml of ammonium hydroxide (28%) was sealed in a heavy-welled Pyrex tube. The sealed tube was heated at 140° C. overnight. The reaction was poured into water/saturated ammonium chloride solution and extracted with ethyl acetate. The combined organics was dried over MgSO4 and concentrated to give (2-amino-3-trifluoromethyl-phenyl)-phenyl-methanone as an oil (0.45 g, 90%). MS ESI (m/z) 266 ([M+H]+);

reactant | (2-fluoro-3-trifluoromethyl-phenyl)-phenyl-methanone | 1.87 mmol, 0.5 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C14H8F4O
reactant | water | O | H2O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | (2-amino-3-trifluoromethyl-phenyl)-phenyl-methanone | 0.45 g, 90% | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C14H10F3NO
